US07619086B2
Step 4: 3-Cyano-N-(4-fluorobenzyl)-3-phenylhex-5-enamide
To a solution f 3-cyano-3-phenylhex-5-enoic acid (5.66 g, 26.3 mmol) and 4-fluorobenzylamine (3.95 g, 31.6 mmol) in DMF was added 1-hydroxybenzotriazole hydrate (6.04 g, 39.4 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (7.56 g, 39.4 mmol), and triethylamine (3.19 g, 31.5 mmol). After stirring overnight at room temperature, the reaction mixture was concentrated under vacuum. The residue was partitioned between EtOAc and water. The organic extract was dried with Na2SO4, filtered, and concentrated under vacuum to provide the title compound as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.41 (s, 1H), 7.47 (d, J=7.9 Hz, 2H), 7.36 (t, J=7 Hz, 2H) 7.35 (t, J=7 Hz, 1H), 7.04 (t, J=8.9 Hz, 2H), 6.97 (t, J=8.6 Hz, 2H), 5.53 (m, 1H), 5.12 (m, 2H), 4.21 (m, 1H), 4.08 (m, 1H), 2.88 (m, 3H), 2.77 (m, 1H) ppm. ES MS M+1=323.

reactant | 3-cyano-3-phenylhex-5-enoic acid | 26.3 mmol, 5.66 g | C(#N)C(CC(=O)O)(CC=C)C1=CC=CC=C1 | C13H13NO2
reactant | 4-fluorobenzylamine | 31.6 mmol, 3.95 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 1-hydroxybenzotriazole hydrate | 39.4 mmol, 6.04 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 39.4 mmol, 7.56 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 31.5 mmol, 3.19 g | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Cyano-N-(4-fluorobenzyl)-3-phenylhex-5-enamide | C(#N)C(CC(=O)NCC1=CC=C(C=C1)F)(CC=C)C1=CC=CC=C1 | C20H19FN2O
